US04429146
2,4-Dichlorophenoxyacetyl chloride (5.3 g, 0.25 mole), was added portionwise to a solution of 2-hydroxyethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate (10 g, 0.25 mole) and pyridine (70 ml). The resulting mixture was heated to 60° C. for 1 hr., cooled and taken into 500 ml CH2Cl2. The methylene chloride solution was washed two times with water, dried and concentrated to 12.5 g of gummy material. The crude gum was chromatographed through silica gel (3:10, ethyl acetate:hexane) to give 2.3 g of pure 2-(2,4-dichlorophenoxyacetoxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate; nmr (DMSO) 4.20-4.76 (m, 4H), 5.04 (S, 2H), 6.96-8.42 (m, 9H); ir (CHCl3) 1755, 1770 Cm-1.

reactant | 2,4-Dichlorophenoxyacetyl chloride | 0.25 mole, 5.3 g | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
reactant | 2-hydroxyethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 0.25 mole, 10 g | ClC1=C(OC=2C=CC(=C(C(=O)OCCO)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C16H11ClF3NO6
reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,4-dichlorophenoxyacetoxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 2.3 g | ClC1=C(OC=2C=CC(=C(C(=O)OCCOC(COC3=C(C=C(C=C3)Cl)Cl)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C24H15Cl3F3NO8
